US05703246
Trans-Stilbene oxide
A solution of phenyldiazomethane (0.45 mmol in 6 ml of t-butylmethyl ether was added to a solution of a compound of formula (C') wherein R' and R" are both hydrogen (90 mg; 0.45 mmol), rhodium (II) acetate (2 mg; 0.0045 mmol) and benzaldehyde (46 μl; 0.45 mmol) in dichloromethane (2 ml). Upon completion of the addition, the solvent was removed in vacuo and the residue chromatographed using silica gel and elating with dichloromethane:petrol 40:60 to give the title compound (4 mg, 5%, 71%ee).

reactant | phenyldiazomethane | C1(=CC=CC=C1)C=[N+]=[N-] | C7H6N2
reactant | hydrogen | 0.45 mmol, 90 mg | [H][H] | H2
reactant | benzaldehyde | 0.45 mmol, 46 μl | C(C1=CC=CC=C1)=O | C7H6O
solvent | t-butylmethyl ether | 6 ml | C(C)(C)(C)OC | C5H12O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
catalyst | rhodium (II) acetate | 0.0045 mmol, 2 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
product | Trans-Stilbene oxide | 4 mg, 5% | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
